US04863920
44.26 g (185 mmol) of (S)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one was stirred at 100° for 4 hours with 162.8 g (645 mmol) of iodine in 300 ml of N,N-dimethylformamide. The reaction mixture was evaporated, the residue was taken up in water and methylene chloride, decolorized with sodium thiosulphate and neutralized with sodium bicarbonate. The aqueous phase was separated and extracted four times with methylene chloride. The combined organic phases were dried over magnesium sulphate and evaporated. By chromatography of the crude product on silica gel while eluting with ethyl acetate and subsequent recrystallization from methylene chloride and methanol there was obtained (S)-11,12,13,13a-tetrahydro-1-iodo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 222°-223°.

reactant | (S)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 185 mmol, 44.26 g | C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C14H13N3O
reactant | iodine | 645 mmol, 162.8 g | II | I2
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | (S)-11,12,13,13a-tetrahydro-1-iodo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | IC=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C14H12IN3O
